US07241785B2
A mixture of methyl 3-[2-[N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-N-(1-propyl)amino]-4-phenyl-5-thiazolyl]propionate (537 mg), lithium hydroxide hydrate (116 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 2 hrs. 1N Hydrochloric acid (2.8 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. A mixture of the obtained colorless oil, 10% hydrochloric acid-methanol (3 ml) and diethyl ether (30 ml) was stirred at room temperature for 10 min. and concentrated to give 3-[2-[N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-N-(1-propyl)amino]-4-phenyl-5-thiazolyl]propionic acid hydrochloride (576 mg, yield 97%) as a colorless amorphous form.

reactant | methyl 3-[2-[N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-N-(1-propyl)amino]-4-phenyl-5-thiazolyl]propionate | 537 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN(CCC)C=2SC(=C(N2)C2=CC=CC=C2)CCC(=O)OC)C=C1 | C34H35N3O4S
reactant | lithium hydroxide hydrate | 116 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 2.8 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-[2-[N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-N-(1-propyl)amino]-4-phenyl-5-thiazolyl]propionic acid hydrochloride | 576 mg, yield 97% | Cl.CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN(CCC)C=2SC(=C(N2)C2=CC=CC=C2)CCC(=O)O)C=C1 | InChI=1S/C33H33N3O4S.ClH/c1-3-20-36(33-35-31(25-10-6-4-7-11-25)29(41-33)18-19-30(37)38)21-24-14-16-27(17-15-24)39-22-28-23(2)40-32(34-28)26-12-8-5-9-13-26;/h4-17H,3,18-22H2,1-2H3,(H,37,38);1H
